US08912188B2
To a solution of (S)-methyl 2-(1H-benzo[d][1,2,3]triazol-5-yl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate (130 mg, 0.33 mmol) in methanol (30 mL) was added sodium hydroxide (40.2 mg, 1.00 mmol) and water (1 mL) with stirring for overnight at room temperature. The resulting mixture was concentrated under vacuum and dissolved in water (25 mL), and adjusted to pH 4 with HCl (3N) to give the precipitate, which was collected by filtration to afford (S)-2-(1H-benzo[d][1,2,3]triazol-5-yl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid (90.3 mg, 72%).

reactant | (S)-methyl 2-(1H-benzo[d][1,2,3]triazol-5-yl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate | 0.33 mmol, 130 mg | N1N=NC2=C1C=CC(=C2)C2=NC1=CC=C(C=C1N=C2N2[C@H](CCC2)C)C(=O)OC | C21H20N6O2
reactant | sodium hydroxide | 1.00 mmol, 40.2 mg | [OH-].[Na+]
reactant | water | 1 mL | O | H2O
solvent | methanol | 30 mL | CO | CH4O
product | (S)-2-(1H-benzo[d][1,2,3]triazol-5-yl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylic acid | 90.3 mg, 72% | N1N=NC2=C1C=CC(=C2)C2=NC1=CC=C(C=C1N=C2N2[C@H](CCC2)C)C(=O)O | C20H18N6O2
